US08754226B2
To a solution of (S)-tert-butyl-4-(3-(6-(methylsulfonyl)pyridine-3-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (259 mg, 0.59 mmol) in DCM (10 mL) was added excess 4N HCl in dioxane (3 mL). The reaction was stirred for 4 hours, then concentrated in vacuo to yield (S)-3-(6-(methylsulfonyl)pyridin-3-yloxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride salt (210 mg, 94%) as an off white solid, which was used without any further purification.

reactant | (S)-tert-butyl-4-(3-(6-(methylsulfonyl)pyridine-3-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.59 mmol, 259 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@H](CC1)OC=1C=NC(=CC1)S(=O)(=O)C)=O | C20H29N3O6S
reactant | HCl | 4N | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(6-(methylsulfonyl)pyridin-3-yloxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride salt | 210 mg, 94% | Cl.CS(=O)(=O)C1=CC=C(C=N1)O[C@@H]1C(N(CC1)C1CCNCC1)=O | InChI=1S/C15H21N3O4S.ClH/c1-23(20,21)14-3-2-12(10-17-14)22-13-6-9-18(15(13)19)11-4-7-16-8-5-11;/h2-3,10-11,13,16H,4-9H2,1H3;1H/t13-;/m0./s1
